US05541182
EXAMPLE 4 Name of the product 1-[2,3-Dihydro-1-nicotinoylmethyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl]-3-(3-tolyl)urea
3-Amino-1,3-dihydro-1-nicotinoylmethyl-5-phenyl-2H-1,4-benzodiazepin-2-one, and 3-tolyl isocyanate

reactant | 3-Amino-1,3-dihydro-1-nicotinoylmethyl-5-phenyl-2H-1,4-benzodiazepin-2-one | NC1C(N(C2=C(C(=N1)C1=CC=CC=C1)C=CC=C2)CC(C2=CN=CC=C2)=O)=O | C22H18N4O2
reactant | 3-tolyl isocyanate | C1(=CC(=CC=C1)N=C=O)C | C8H7NO
product | 1-[2,3-Dihydro-1-nicotinoylmethyl-2-oxo-5-phenyl-1H-1,4-benzodiazepin-3-yl]-3-(3-tolyl)urea | C(C1=CN=CC=C1)(=O)CN1C(C(N=C(C2=C1C=CC=C2)C2=CC=CC=C2)NC(=O)NC=2C=C(C=CC2)C)=O | C30H25N5O3
